US06444668B1
A mixture of 3-[3-bromo-phenyl]-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester (16.8 g, 53.5 mmol), sodium hydroxide (2.4 g, 58.8 mmol), distilled water (120 mL), and ethanol (20 mL) was heated to 100° C. for 2 hours. The reaction mixture was cooled to room temperature. Concentrated hydrochloric acid (5.1 mL) was added, and the reaction mixture re-heated to 100° C. for 3 hours. The solution was cooled to room temperature and extracted with diethyl ether (3×150 mL). The combined organic layers were washed with distilled water (3×100 mL), and dried over MgSO4. After the solvent was removed, 3-[3-bromo-phenyl]-[1,2,4]thiadiazole was obtained as white needles (12.7 g, 99%): mp 69-71° C.; 1H-NMR (CDCl3) δ9.89 (s, 1H), 8.52 (t, 1H, J=1.8 Hz), 8.28 (dt, 1H, J=5.2, 1.3 Hz), 7.61 (dq, 1H, J=4.9, 1.1 Hz), 7.35 (t, 1H, J=7.9 Hz); MS ((+)APCI) [M+H]+ @ m/z 241/243. Anal. Calc. For C8H5BrN2S: C, 39.85, H, 2.09, N, 11.62. Found: C, 39.82, H, 2.43, N, 11.33.

reactant | 3-[3-bromo-phenyl]-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester | 53.5 mmol, 16.8 g | C(C)OC(=O)C1=NC(=NS1)C1=CC(=CC=C1)Br | C11H9BrN2O2S
reactant | sodium hydroxide | 58.8 mmol, 2.4 g | [OH-].[Na+]
product | 3-[3-bromo-phenyl]-[1,2,4]thiadiazole | BrC=1C=C(C=CC1)C1=NSC=N1 | C8H5BrN2S
